US06964965B2
To a solution of benzyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-hydroxypyrrolidine-1-carboxylate (17.70 g, 47.8 mmole) in DMF (0.3 M) at 0° C. under N2 was added NaH portionwise (2.48 g, 1.3 eq.). After 15 minutes, iodoethane (4.93 mL, 1.3 eq.) was added dropwise. After 2 hours, the reaction mixture was quenched with brine (200 mL), extracted with ethyl acetate (2×200 mL), dried with MgSO4, filtered and concentrated. Vacuum chromatography was run on a 1 L frit funnel (20-40% ethyl acetate in heptane gradient) to give 14.64 g (77%) of benzyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-ethoxypyrrolidine-1-carboxylate as an oil. IR (liq.) 2971, 2936, 2340, 1950, 1709, 1546, 1499, 1464, 1448, 1422, 1395, 1350, 1173, 1129, 1097 (s) cm−1 HRMS (ESI) calcd for C22H30N4O3+H1 399.2396. found 399.2392. [α]25D=−50° (c 0.55, 0.1N HCl).

reactant | benzyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-hydroxypyrrolidine-1-carboxylate | 47.8 mmole, 17.70 g | C(C)C=1C(=NC(=CN1)CC)N[C@@H]1CN(C[C@@H]1O)C(=O)OCC1=CC=CC=C1 | C20H26N4O3
reactant | NaH | [H-].[Na+]
reactant | iodoethane | 4.93 mL, 1.3 eq. | ICC | C2H5I
solvent | DMF | 0.3 M | CN(C)C=O | C3H7NO
product | benzyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-ethoxypyrrolidine-1-carboxylate | 14.64 g, 77% | C(C)C=1C(=NC(=CN1)CC)N[C@@H]1CN(C[C@@H]1OCC)C(=O)OCC1=CC=CC=C1 | C22H30N4O3
